US07462639B2
1-Methyl-cyclopropanecarboxylic acid[3-(7,7-diethyl-5-isopropyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide
Methyl-cyclopropanecarboxylic acid[3-(7,7-diethyl-5-isopropyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide was prepared using 2-(4-Amino-1H-pyrazol-3-yl)-7,7-diethyl-5-isopropyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (150 mg, 0.43 mmol) and 1-methyl-cyclopropane-carboxylic acid (51 mg, 0.43 mmol). 17 mg (9%) %) of the title compound were obtained.

reactant | 2-(4-Amino-1H-pyrazol-3-yl)-7,7-diethyl-5-isopropyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.43 mmol, 150 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)C(C)C)=O)(CC)CC)N1 | C19H24N6O
reactant | 1-methyl-cyclopropane-carboxylic acid | 0.43 mmol, 51 mg | CC1(CC1)C(=O)O | C5H8O2
product | 1-Methyl-cyclopropanecarboxylic acid[3-(7,7-diethyl-5-isopropyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide | C(C)C1(C(N(C=2C=C3C(=CC12)NC(=N3)C3=NNC=C3NC(=O)C3(CC3)C)C(C)C)=O)CC | C24H30N6O2
